US06699861B1
4-Acetamido-2-chlorotoluene
Acetic anhydride (78 ml, 0.825 mol) was added in portions (using a dropping funnel) during a 45 min period to a stirred, cooled in an ice-bath solution of 3-chloro-4-methylaniline (106.2 g, 0.75 mol) in ethyl acetate (550 ml, dried over MgSO4 prior to use) and anhydrous pyridine (66.6 ml, 0.825 mol) under argon. During the reaction the temperature of the reaction mixture varied between 10-20° C. Stirring was continued for 20 min; then the ice-water bath was removed and the reaction mixture was stirred for 18 h at room temperature. The solvents were removed in vacuo and the light brown solid residue was triturated with ether (350 ml) and left to stand in a fridge overnight. The solid was collected by filtration, washed with cold ether (100 ml) and hexanes (100 mL), dried over P2O5 to afford a white solid (90 g). The filtrate was concentrated in vacuo, triturated with ether to afford an additional 28.1 g of the product. Total yield 118.1 g (86%); mp 105-106° C.; 1H-NMR (CDCl3) 2.17, 2.32 (2×s, 6H, 4-CH3, CH3CO), 7.14 (d, J=8.22 Hz, 1H, 6-H), 7.25 (2×dd, J=1.9, 6.5 Hz, 1H, 5-H), 7.58 (d, J=1.8 Hz, 1H, 3-H); MS (FAB, m/z) 184, 186 [(M+H)+ 100%, 30% respectively; Cl isotopic pattern].

reactant | Acetic anhydride | 0.825 mol, 78 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-chloro-4-methylaniline | 0.75 mol, 106.2 g | ClC=1C=C(N)C=CC1C | C7H8ClN
reactant | pyridine | 0.825 mol, 66.6 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Acetamido-2-chlorotoluene | 90 g | C(C)(=O)NC1=CC(=C(C=C1)C)Cl | C9H10ClNO
